US04124590
2-Chloro-5-(1,2,5,6-tetrahydropyridylsulfonyl)benzoic Acid
2-Chloro-5-chlorosulfonylbenzoic acid (25.5 g.) is added in small portions over a 5 minute period with cooling to a solution of 1,2,5,6-tetrahydropyridine (25.0 g.) in 200 ml. of water. After stirring at room temperature for a half hour, the reaction mixture is acidified with concentrated hydrochloric acid. The crystalline precipitate is filtered off and dissolved in 75 ml. of methylene chloride and 10 ml. of ether. After concentration to 50 ml., hexane is added to turbidity, affording crystals, m.p. 180°-182° C.

reactant | 2-Chloro-5-chlorosulfonylbenzoic acid | 25.5 g | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)Cl | C7H4Cl2O4S
reactant | 1,2,5,6-tetrahydropyridine | 25.0 g | N1CC=CCC1 | C5H9N
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-Chloro-5-(1,2,5,6-tetrahydropyridylsulfonyl)benzoic Acid | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N1CC=CCC1 | C12H12ClNO4S
